US07282512B2
Ozone was bubbled through a solution of 402.0 mg (667.0 μmol) of 1-benzylcyclobutyl (1S)-1-[cyano(triphenylphosphoranylidene)acetyl]pentylcarbamate in 13 mL of dichloromethane at −78° C. for 15 min. The solution was purged with nitrogen for 5 min, then 86.0 μL (667.0 μmol) of (S)-α-methylbenzylamine was added and the solution was stirred at −78° C. for 15 min. The solution was concentrated and 5 mL of a 1 M solution of silver nitrate in tetrahydrofuran:water (4:1) was added and the mixture was stirred for 16 h at room temperature. The solution was extracted with ethyl acetate. The organic layer was washed with 10% citric acid, followed by saturated sodium bicarbonate, and saturated sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an acetone:hexanes solution (1:3) to give 30.2 mg (10%) of 1-benzylcyclobutyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate. Rf=0.24 (1:4 acetone:hexanes); 1H NMR (300 MHz, DMSO-d6) δ 9.20 (d, J=8 Hz, 1H), 7.46 (d, J=7 Hz, 1H), 7.34-7.09 (m, 10H), 4.98 (p, J=8 Hz, 1H), 4.80-4.72 (m, 1H), 3.15 (s, 2H), 2.22-2.02 (m, 4H), 1.80-1.54 (m, 3H), 1.42 (d, J=7 Hz, 3H), 1.42-1.14 (m, 5H), 0.81 (t, J=7 Hz, 3H); HRMS C27H34N2O4+Na m/z 473.2416 (M+Na)Cal; 473.2423 (M+Na)Obs.

reactant | Ozone | O=[O+][O-] | O3
reactant | 1-benzylcyclobutyl (1S)-1-[cyano(triphenylphosphoranylidene)acetyl]pentylcarbamate | 667.0 μmol, 402.0 mg | C(#N)C(C(=O)[C@H](CCCC)NC(OC1(CCC1)CC1=CC=CC=C1)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H39N2O3P
reactant | (S)-α-methylbenzylamine | 667.0 μmol, 86.0 μL | C[C@@H](C1=CC=CC=C1)N | C8H11N
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 1-benzylcyclobutyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | 30.2 mg, 10% | O=C(C(=O)[C@H](CCCC)NC(OC1(CCC1)CC1=CC=CC=C1)=O)N[C@H](C)C1=CC=CC=C1 | C27H34N2O4
